US07214673B2
(S)-1,4-Dibenzyl-2-(4-phenyl-but-3-enyl)-piperazine
Combine 9-borabicyclo[3.3.1]nonane (81.6 mL, 40.3 mmol, 0.5 M in THF) and (S)-1,4-dibenzyl-2-vinyl-piperazine (2.0 g, 6.8 mmol)and stir at ambient temperature. After 16 hours, take half volume of it, add triphenylphosphine (143 mg, 0.55 mmol), tetrakis(triphenylphosphine)palladium(0) (78.5 mg, 0.068 mmol), and beta-bromostyrene (0.93 g, 5.08 mmol). Add 3N NaOH (2.8 mL, 8.8 mmol) slowly, gas evolution will occur. Heat to reflux. After 24 hours, cool to ambient temperature. Remove the solvent under reduced pressure, dilute with diethyl ether, wash with 1N HCl, 1N NaOH, H2O and brine, dry the organic layer over Na2SO4, filter and concentrate under reduced pressure. Purification by flash chromatography on silica gel using 2N ammonia in methanol-methylene chloride (0.5%–3%) as the eluent, collect compound and pass through 10 g SCX column, using MeOH, 0.2 N NH3 in MeOH as eluent to give the title compound (750 mg, 56%): mass spectrum (electrospray): m/z=397.3 (M+1); 1H NMR (300 MHz, CDCl3): δ7.35–7.16 (m, 15H), 6.36–6.12 (m, 2H), 4.01 (d, 1H, J=13.2), 3.56–3.43 (m, 2H), 3.25 (d, 1H, J=13.4 Hz), 2.75–2.68 (m, 2H), 2.56–2.48 (m, 2H), 2.29–2.13 (m, 5H), 1.82–1.76 (m, 2H).

reactant | 9-borabicyclo[3.3.1]nonane | 40.3 mmol, 0.5 M, 81.6 mL | C12CCCC(CCC1)B2 | C8H15B
reactant | (S)-1,4-dibenzyl-2-vinyl-piperazine | 6.8 mmol, 2.0 g | C(C1=CC=CC=C1)N1[C@H](CN(CC1)CC1=CC=CC=C1)C=C | C20H24N2
reactant | triphenylphosphine | 0.55 mmol, 143 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | beta-bromostyrene | 5.08 mmol, 0.93 g | BrC=CC1=CC=CC=C1 | C8H7Br
reactant | NaOH | 8.8 mmol, 3N, 2.8 mL | [OH-].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.068 mmol, 78.5 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (S)-1,4-Dibenzyl-2-(4-phenyl-but-3-enyl)-piperazine | 750 mg, 56% | C(C1=CC=CC=C1)N1[C@H](CN(CC1)CC1=CC=CC=C1)CCC=CC1=CC=CC=C1 | C28H32N2
